US09416115B2
1-(pyrrolidin-1-yl)-2-((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)ethan-1-one
2-((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)acetic acid (50 mg, 0.142 mmol) was dissolved in 3 mL DMF. Pyrrolidine (30 mg, 0.425 mmol) was added followed by addition of HATU (81 mg, 0.212 mmol). The mixture was stirred at ambient temperature overnight, then diluted with 60 mL ethyl acetate, washed with water and brine, and evaporated. The product was purified on 12 g silica gel with 0-100% ethyl acetate in hexane followed by recrystallization from acetonitrile/water to give the title compound (30 mg, 0.073 mmol).

reactant | 2-((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)acetic acid | 0.142 mmol, 50 mg | FC(OC1=CC=C(C=C1)C=1C=CC2=C(C(=NO2)OCC(=O)O)C1)(F)F | C16H10F3NO5
reactant | Pyrrolidine | 0.425 mmol, 30 mg | N1CCCC1 | C4H9N
reactant | HATU | 0.212 mmol, 81 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 1-(pyrrolidin-1-yl)-2-((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)ethan-1-one | 0.073 mmol, 30 mg | N1(CCCC1)C(COC1=NOC2=C1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)=O | C20H17F3N2O4
